US04803289
Undecanol (14 g), 48% aqueous hydrobromic acid (30 g) and concentrated sulphuric acid (5 ml) are heated together under reflux for 51/2 hours. After cooling, water is added and the organic layer is separated, washed with concentrated sulphuric acid (20 ml), brine (50 ml) and dilute aqueous sodium carbonate (50 ml), and is then dried over calcium chloride. Distillaion under vacuum gives 1-bromoundecane (12 g) as a yellow oil, b.p. 60°-70° C./0.1 mm.

reactant | Undecanol | 14 g | C(CCCCCCCCCC)O | C11H24O
reactant | hydrobromic acid | 30 g | Br | BrH
reactant | sulphuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 1-bromoundecane | 12 g | BrCCCCCCCCCCC | C11H23Br
